US05464788
Methyl 2-methoxy-4-(1-Boc-4-piperidyloxy)phenylacetate (1.37 g, 3.6 mmol) was dissolved in THF (27 ml) and treated with lithium hydroxide (4.5 ml of a 1M aqueous solution, 4.5 mmol). The mixture was stirred at ambient temperature for 4.5 hours, then treated with an additional 0.9 ml of 1M lithium hydroxide and stirred at ambient temperature for 18 hours. The mixture was concentrated in vacuo, and the residue was acidified with 1M HCl, and extracted with ethyl acetate. The combined ethyl acetate layers were dried over sodium sulfate, filtered, and evaporated to dryness in vacuo. The residue was reconcentrated from ether to give 2-methoxy-4-(1-Boc-4-piperidyloxy)phenylacetic acid.

reactant | Methyl 2-methoxy-4-(1-Boc-4-piperidyloxy)phenylacetate | 3.6 mmol, 1.37 g | COC1=C(C=CC(=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)CC(=O)OC | C20H29NO6
reactant | lithium hydroxide | [OH-].[Li+]
reactant | lithium hydroxide | 1M, 0.9 ml | [OH-].[Li+]
solvent | THF | 27 ml | C1CCOC1 | C4H8O
product | 2-methoxy-4-(1-Boc-4-piperidyloxy)phenylacetic acid | COC1=C(C=CC(=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)CC(=O)O | C19H27NO6
